US07420083B2
To a solution of 2-hydroxy-4-(2-hydroxy-ethoxy)-benzoic acid methyl ester (3.025 g, 14.25 mmol) in methylene chloride (80 mL) was added carbon tetrabromide (6.216 g, 18.74 mmol) and triphenylphosphine (5.012 g, 19.10 mmol). The reaction was stirred 3 hours at room temperature then additional carbon tetrabromide (1.967 g, 5.931 mmol) and triphenylphosphine (1.568 g, 5.97 mmol) was added and stirring continued overnight. The reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography using ethyl acetate/hexanes (10/90 to 20/80) to afford 4-(2-bromo-ethoxy)-2-hydroxy-benzoic acid methyl ester (3.070 g, 78%) as a white solid. 1H NMR (300 MHz, CDCl3); δ 11.00 (s, 1H), 7.76 (d, 2H), 6.46 (m, 2H), 4.32 (t, 2H), 3.93 (s, 3H), 3.65 (t, 2H).

reactant | 2-hydroxy-4-(2-hydroxy-ethoxy)-benzoic acid methyl ester | 14.25 mmol, 3.025 g | COC(C1=C(C=C(C=C1)OCCO)O)=O | C10H12O5
reactant | carbon tetrabromide | 18.74 mmol, 6.216 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 19.10 mmol, 5.012 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 5.931 mmol, 1.967 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 5.97 mmol, 1.568 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-bromo-ethoxy)-2-hydroxy-benzoic acid methyl ester | 3.070 g, 78% | COC(C1=C(C=C(C=C1)OCCBr)O)=O | C10H11BrO4
